US06927228B2
(b) N-[4′-(2-Carbamoylpropyl)biphenyl-3-ylmethyl]-N-methylbenzamide
By reacting a solution of 1.7 g (4.1 mmol) of 3-(3′-{[methyl-(1-phenylmethanoyl)amino]-methyl}biphenyl-4-yl)propionyl chloride in 5 ml of THF with 10 ml of aqueous ammonia, and after purification by chromatography on a column of silica, 200 mg (32%) of N-[4′-(2-carbamoylpropyl)biphenyl-3-ylmethyl]-N-methylbenzamide, with a melting point of 47-48° C., are obtained.

reactant | 3-(3′-{[methyl-(1-phenylmethanoyl)amino]-methyl}biphenyl-4-yl)propionyl chloride | 4.1 mmol, 1.7 g | CN(C(=O)C1=CC=CC=C1)CC=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)Cl | C24H22ClNO2
reactant | ammonia | 10 ml | N | H3N
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[4′-(2-Carbamoylpropyl)biphenyl-3-ylmethyl]-N-methylbenzamide | C(N)(=O)C(CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=CC=C1)=O)C)C | C25H26N2O2
